US04929741
A solution of 9.8 g (32 mmol) of 2-(2-methoxyethoxy)-ethyl 4-hydroxy-4-(4-methoxyphenyl)-2-butynoate in 100 ml of methylene chloride was added dropwise at 0° to a suspension of 83 g (0.95 mol) of manganese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 2 hours, filtered over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 800 g of silica gel (elution agent methylene chloride/ether 4:1). There was obtained 2-(2-methoxyethoxy)ethyl 3-(4-methoxybenzoyl)propiolate as a pale yellow oil.

reactant | 2-(2-methoxyethoxy)-ethyl 4-hydroxy-4-(4-methoxyphenyl)-2-butynoate | 32 mmol, 9.8 g | OC(C#CC(=O)OCCOCCOC)C1=CC=C(C=C1)OC | C16H20O6
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.95 mol, 83 g | [O-2].[O-2].[Mn+4]
product | 2-(2-methoxyethoxy)ethyl 3-(4-methoxybenzoyl)propiolate | COC1=CC=C(C(=O)C#CC(=O)OCCOCCOC)C=C1 | C16H18O6
